US04963546
(i) 1-(5,6-Dihydro-4H-pyrolo[3,2,1-ij]quinolin-1-yl)ethanone
A mixture of 1-amino-1,2,3,4-tetrahydroquinoline hemisulphate (8.05 g) and 4-methoxy-3-buten-2-one (4.2 ml) in ethanol (50 ml) and conc. hydrochloric acid (9.5 ml) was stirred at 20° for 1 h. The resulting solution was heated under reflux for 4.5 h. The mixture was cooled, concentrated to ca. 10 ml in vacuo and partitioned between ethyl acetate (3×150 ml) and 1M hydrochloric acid (150 ml). The combined organic extracts were evaporated in vacuo to leave an oil (ca. 8 g) which was dissolved in dichloromethane (8 ml) and filtered through a small pad of FCC silica. This silica was then washed with dichloromethane (100 ml). The filtrates were combined and evaporated to leave an oil (ca. 6 g) which was purified by FCC eluting with hexane:ethanol:ammonia (400:100:1) to give an oil (3.5 g). This was crystallised from a mixture of ether:hexane (2:1; 50 ml) to give the title compound (2.2 g), m.p. 108°-110°.

reactant | 1-amino-1,2,3,4-tetrahydroquinoline hemisulphate | 8.05 g | S(=O)(=O)(O)O.NN1CCCC2=CC=CC=C12.NN1CCCC2=CC=CC=C12
reactant | 4-methoxy-3-buten-2-one | 4.2 ml | COC=CC(C)=O | C5H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 9.5 ml | Cl | ClH
product | 1-(5,6-Dihydro-4H-pyrolo[3,2,1-ij]quinolin-1-yl)ethanone | ca. 8 g | C1(=CN2CCCC3=CC=CC1=C23)C(C)=O | C13H13NO
